US07291631B2
Using General Procedure B: Reaction of 4-(5,6,7,8-Tetrahydro-quinolin-8-ylamino)-piperidine-1-carboxylic acid tert-butyl ester and 3,5-dimethyl-pyridine-2-carbaldehyde with NaBH(OAc)3 in CH2Cl2 gave 4-[(3,5-Dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-piperidine-1-carboxylic acid tert-butyl ester as a white solid. Deprotection with TFA using General Procedure F gave (3,5-dimethyl-pyridin-2-ylmethyl)-piperidin-4-yl-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine as a yellow oil.

reactant | 4-(5,6,7,8-Tetrahydro-quinolin-8-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1CCCC=2C=CC=NC12 | C19H29N3O2
reactant | 3,5-dimethyl-pyridine-2-carbaldehyde | CC=1C(=NC=C(C1)C)C=O | C8H9NO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[(3,5-Dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C1CCCC=2C=CC=NC12)CC1=NC=C(C=C1C)C | C27H38N4O2
